US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(1-methyl-1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (1.52 g: 1.47 mMol.) in a mixture of anisole (5 ml) and nitromethane (20 ml) at -40° C. is added a solution of aluminum chloride (1.56 g: 11.7 mMol.) in anisole (5 ml), and the mixture is stirred at -30° to -40° C. for 1 hour. The reaction mixture is mixed with 1N-hydrochloric acid (12 ml), diluted with water, washed with ethyl acetate, concentrated to remove remaining organic solvents, and passed through a column of styrene-divinylbenzene copolymer adsorbent. The adsorbed product is eluted with water-methanol (1:4). The eluate is concentrated to give powder and washed with ethyl acetate to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(1-methyl-1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid (628 mg) as yellow powder. Yield: 81%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetylamino]-3-(1-methyl-1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 1.47 mMol, 1.52 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)SC(C)SC2=NNC=N2 | C53H48N8O7S4
reactant | aluminum chloride | 11.7 mMol, 1.56 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 20 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetylamino]-3-(1-methyl-1,2,4-triazol-3-ylthiomethylthio)-3-cephem-4-carboxylic acid | 628 mg, Yield: 81% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SC(C)SC2=NNC=N2)C(=O)O)C1=O)=N/O | C16H16N8O5S4
